US05808062
6-(3,5-Dimethylphenyl)-4-hydroxy-3-[(2-phenylethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3',5'-dimethyl acetophenone (1.75 g, 11.82 mmol), lithium diisopropylamide (1.89 g, 17.73 mmol), chlorotrimethylsilane (2.25 mL, 17.73 mmol), THF (120 mL), and diethyl ester of [(2-phenylethyl)thio]-propanedioic acid (1.00 g, 3.37 mmol). m.p. 155°-157° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.34 (s, 6 H), 2.77 (t, 2 H), 2.99 (t, 2 H), 6.72 (s, 1 H), 7.21 (m, 6 H), 7.41 (s, 2 H), 8.74 (d, 2 H).

reactant | 3',5'-dimethyl acetophenone | 11.82 mmol, 1.75 g | CC=1C=C(C=C(C1)C)C(C)=O | C10H12O
reactant | lithium diisopropylamide | 17.73 mmol, 1.89 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | chlorotrimethylsilane | 17.73 mmol, 2.25 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]-propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 6-(3,5-Dimethylphenyl)-4-hydroxy-3-[(2-phenylethyl)thio]-2H-pyran-2-one | CC=1C=C(C=C(C1)C)C1=CC(=C(C(O1)=O)SCCC1=CC=CC=C1)O | C21H20O3S
